US04659708
B. N-(6-Methoxy-4-methyl-8-quinolinyl)-4-methyl-1-piperazinehexanamide
A mixture of 5.5 g (0.015 mole) of 6-bromo-N-(6-methoxy-4-methyl-8-quinolinyl)hexanamide and 1.8 g (0.018 mole) of N-methylpiperazine in 70 ml of benzene was heated under reflux for 20 hr, treated with 2 ml of triethylamine, and heated for an additional 24 hr. The mixture was allowed to cool, filtered and the filtrate was washed with water, dried and concentrated to dryness in vacuo. The residue was recrystallized twice from n-hexane containing a little toluene and then dried in vacuo at 68° to afford 3.1 g (53%) of the title compound, mp 104°-107°.

reactant | 6-bromo-N-(6-methoxy-4-methyl-8-quinolinyl)hexanamide | 0.015 mole, 5.5 g | BrCCCCCC(=O)NC=1C=C(C=C2C(=CC=NC12)C)OC | C17H21BrN2O2
reactant | N-methylpiperazine | 0.018 mole, 1.8 g | CN1CCNCC1 | C5H12N2
reactant | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
solvent | benzene | 70 ml | C1=CC=CC=C1 | C6H6
product | N-(6-Methoxy-4-methyl-8-quinolinyl)-4-methyl-1-piperazinehexanamide | 3.1 g, 53% | COC=1C=C2C(=CC=NC2=C(C1)NC(CCCCCN1CCN(CC1)C)=O)C | C22H32N4O2
